US09120776B2
A solution of 3-((tert-butoxycarbonyl)amino)-2-methylpropanoic acid (200 mg, 0.98 mmol), 4-(aminomethyl)benzonitrile (130 mg, 0.98 mmol), HATU (486 mg, 1.28 mmol) and TEA (0.411 mL, 2.95 mmol) in DMF (5 mL) was stirred at room temperature for 16 hr. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 20 to 67% ethyl acetate/hexane) to give tert-butyl (3-((4-cyanobenzyl)amino)-2-methyl-3-oxopropyl)carbamate (221 mg, 0.696 mmol, 70.8%) as a white powder.

reactant | 3-((tert-butoxycarbonyl)amino)-2-methylpropanoic acid | 0.98 mmol, 200 mg | C(C)(C)(C)OC(=O)NCC(C(=O)O)C | C9H17NO4
reactant | 4-(aminomethyl)benzonitrile | 0.98 mmol, 130 mg | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | HATU | 1.28 mmol, 486 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl (3-((4-cyanobenzyl)amino)-2-methyl-3-oxopropyl)carbamate | 0.696 mmol, 221 mg, 70.8% | C(#N)C1=CC=C(CNC(C(CNC(OC(C)(C)C)=O)C)=O)C=C1 | C17H23N3O3
